data/oMe_Silver.jsonl
{"reaction_id": "NR-102_1-C1CCCCC1_2-Br_3-c1ccc2ccccc2c1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(C1CCCCC1)(=S)N","C(c1ccc2ccccc2c1)(=O)C(Br)Cl"],"products_smiles": ["C1CCCCC1c1nc(c1ccc2ccccc2c1)c(Br)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C1CCCCC1)(=[NH2+])SC(Br)C(c1ccc2ccccc2c1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(=N)SC(Br)C(c1ccc2ccccc2c1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C1=[NH+]C(c1ccc2ccccc2c1)(O)C(Br)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C1=NC(c1ccc2ccccc2c1)([OH2+])C(Br)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1c1nc(c1ccc2ccccc2c1)c(Br)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
{"reaction_id": "NR-218_1-c1ccccn1_2-c1ccc(OC)cc1","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(c1ccccn1)C(=O)C(c1ccccn1)C(=O)OCC","O=CC(c1ccc(OC)cc1)","N"],"products_smiles": ["C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(Cc1ccc(OC)cc1))(Cc1ccc(OC)cc1))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N)C(c1ccc(OC)cc1))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N=C(Cc1ccc(OC)cc1))C(c1ccc(OC)cc1))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(Cc1ccc(OC)cc1))(Cc1ccc(OC)cc1))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
